US05317016
To a solution of (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-phthalimidomethyl-4-tritylthiopyrrolidine (752 mg: 1.124 mmole) in a mixture of dichloromethane (3 ml) and methanol (12 ml), hydrazine hydrate (109 μl: 2 eq.) is added. The mixture is heated for 5 hours. The reaction mixture is concentrated in vacuo. The residue is dissolved in dichloromethane (5 ml) and the solid is filtered off. The filtrate is washed with water and concentrated in vacuo. The residue is recrystallized from a mixture of dichloromethane and methanol to give (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-aminomethyl-4-tritylthiopyrrolidine (471 mg). Yield: 78%. mp. 165° to 167° C. NMR δ(CDCl3 :CD3OD=2:1) ppm: 3.46(s, 3H), 4.96, 4.89(ABq, J=12 Hz, 2H). IR ν (CHCl3) cm-1 : 1683, 1610.

reactant | (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-phthalimidomethyl-4-tritylthiopyrrolidine | 1.124 mmole, 752 mg | COC1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C41H36N2O5S
reactant | hydrazine hydrate | 109 μl, 2 eq. | O.NN
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | methanol | 12 ml | CO | CH4O
product | (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-aminomethyl-4-tritylthiopyrrolidine | 471 mg, Yield: 78% | COC1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CN)C=C1 | C33H34N2O3S
